US07470699B2
A mixture of 4-mercapto-piperidine-1-carboxylic acid tert-butyl ester (1.5352 g, 7.06 mmol) and 4,6-dichloro-5-methyl-pyrimidine (1.1512 g, 7.06 mmol) in 15 mL of THF with sodium t-butoxide (1M in THF, 8.3 mL, 8.3 mmol) added dropwise. After 5 min, mixture was concentrated and residue was extracted with CH2Cl2 and H2O. Organic phase was dried over MgSO4, filtered and concentrated to give 4-(6-chloro-5-methyl-pyrimidin-4-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester as a yellowish solid (2.3469 g, 97%). Exact mass calculated for C15H22ClN3O2S 343.11, found 344.1 (MH+).

reactant | 4-mercapto-piperidine-1-carboxylic acid tert-butyl ester | 7.06 mmol, 1.5352 g | C(C)(C)(C)OC(=O)N1CCC(CC1)S | C10H19NO2S
reactant | 4,6-dichloro-5-methyl-pyrimidine | 7.06 mmol, 1.1512 g | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | sodium t-butoxide | 8.3 mmol, 1M, 8.3 mL | CC(C)([O-])C.[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(6-chloro-5-methyl-pyrimidin-4-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.3469 g, 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=NC=NC(=C1C)Cl | C15H22ClN3O2S
